US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and 3-bromopropyl phenylmethyl ether (0.050 mL, 0.283 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0579 g, 66.6%). EI-MS m/z 451(M+) Rt (2.28 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 3-bromopropyl phenylmethyl ether | 0.283 mmol, 0.050 mL | C1(=CC=CC=C1)COCCCBr | C10H13BrO
product | 4-[cyano(diphenyl)methyl]-1-{3-[(phenylmethyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0579 g, 66.6% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C31H35N2O.BrH/c32-26-31(28-13-6-2-7-14-28,29-15-8-3-9-16-29)30-17-21-33(22-18-30,23-19-30)20-10-24-34-25-27-11-4-1-5-12-27;/h1-9,11-16H,10,17-25H2;1H/q+1;/p-1
